US07851071B2
Dissolving 8.0 g (30 mmol) of (4-bromo-phenyl)-(2-nitrophenyl)-amine into 80 milliliter of tetrahydrofuran, an aqueous solution prepared by dissolving 24 g (0.14 mmol) of sodium dithionite into 100 milliliter of water was added. Subsequently, adding 10 milliliter of methanol, the resultant solution was stirred at room temperature for 3 hours. After recognizing that the color (orange) of the resultant solution almost disappeared, water was added, followed by extracting with ethyl acetate. After sufficiently drying an organic layer with sodium sulfate, the solvent was removed by distillation, and as a result, phenylenediamine was obtained. Dissolving the resultant phenylenediamine into 150 milliliter of ethyl acetate, an organic layer was extracted. Further, 3.0 g (38 mmol) of pyridine, 1.8 g (18 mmol) of acetic anhydride and catalyst amount of 4-dimethylaminopyridine (DMAP) were added to the organic layer, and the resultant solution was stirred at room temperature for 3 hours, followed by left standing for a night. After completion of the reaction, adding water, separation with filtration was carried out for precipitated solids and then, they were sufficiently washed with water and methanol, thereby obtaining 4.1 g of benzamide as white solid (yield: 49%).

reactant | phenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | pyridine | 38 mmol, 3.0 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 18 mmol, 1.8 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 150 milliliter | C(C)(=O)OCC | C4H8O2
product | benzamide | 4.1 g, yield: 49% | C(C1=CC=CC=C1)(=O)N | C7H7NO
